US07989430B2
Preparation of 2′-Deoxy-5′-O—[N-(2-hydroxybenzoyl)sulfamoyl]-adenosine triethylammonium salt
To a solution of 3′-O-tert-butyldimethylsilyl-2′-deoxy-5′-O—[N-(2-hydroxybenzoyl)sulfamoyl]-adenosine (10.5 mg, 0.018 mmol, 1.0 equiv) in THF (2.0 mL) was added TBAF (1.0 M solution in THF, 0.1 mL, 6.0 equiv) and the solution stirred 3 hours at room temperature. The reaction mixture was concentrated and purification of the residue by flash chromatography (65:35:1 EtOAc/MeOH/Et3N) afforded the title compound (5.1 mg, 50%): Rf 0.15 (3:1 EtOAc/MeOH); [α]20D −99 (c 0.25, CH3OH) 1H NMR (600 MHz, CD3OD) δ 1.29 (t, J=7.2 Hz, 9H), 2.44 (ddd, J=13.8, 5.4, 2.4 Hz, 1H), 2.70-2.90 (m, 1H), 3.18 (q, J=7.2 Hz, 6H), 4.24 (s, 1H), 4.32 (dd, J=11.4, 3.6 Hz, 1H), 4.35 (dd, J=10.8, 3.6 Hz, 1H), 4.62-4.70 (m, 1H), 6.50 (t, J=6.6 Hz, 1H), 6.75-6.84 (m, 2H), 7.29 (t, J=7.8 Hz, 1H), 7.93 (d, J=7.8 Hz, 1H), 8.16 (s, 1H), 8.50 (s, 1H); 13C NMR (150 MHz, CD3OD) δ 9.4, 41.6, 48.1, 70.0, 73.5, 85.9, 87.0, 118.0, 119.4, 120.3, 120.8, 131.5, 134.5, 141.3, 150.6, 153.9, 157.4, 162.2, 175.1; HRMS (ESI+) calcd for C17H19N6O7S [M+H]+ 451.1030, found 451.1014 (error 3.5 ppm).

reactant | 3′-O-tert-butyldimethylsilyl-2′-deoxy-5′-O—[N-(2-hydroxybenzoyl)sulfamoyl]-adenosine | 0.018 mmol, 10.5 mg, 1.0 equiv | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1COS(NC(C1=C(C=CC=C1)O)=O)(=O)=O)N1C=NC=2C(N)=NC=NC12 | C23H32N6O7SSi
reactant | TBAF | 1.0 M, 0.1 mL, 6.0 equiv | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 2′-Deoxy-5′-O—[N-(2-hydroxybenzoyl)sulfamoyl]-adenosine triethylammonium salt | 5.1 mg, 50% | C(C)[NH+](CC)CC.OC1=C(C(=O)NS(=O)(=O)OC[C@@H]2[C@H](C[C@@H](O2)N2C=NC=3C(N)=NC=NC23)O)C=CC=C1 | InChI=1S/C17H18N6O7S.C6H15N/c18-15-14-16(20-7-19-15)23(8-21-14)13-5-11(25)12(30-13)6-29-31(27,28)22-17(26)9-3-1-2-4-10(9)24;1-4-7(5-2)6-3/h1-4,7-8,11-13,24-25H,5-6H2,(H,22,26)(H2,18,19,20);4-6H2,1-3H3/p+1/t11-,12+,13+;/m0./s1
